US07709468B2
To a mixture of sodium tetrahydroborate (7.4 g, 200 mmol) in EtOH (100 mL) at about 0° C. was added cyanodimethylacetic acid ethyl ester (TCI, 10.0 g, 70.8 mmol) in EtOH (100 mL) over about 45 min. The mixture was allowed to warm to ambient temperature over about 30 min. After about 60 h, the solvents were removed in vacuo. The resulting material was treated with saturated aqueous NH4Cl (150 mL) and extracted using DCM (3×30 mL). The combined organic layers were dried over Na2SO4 and concentrated to yield the crude 3-hydroxy-2,2-dimethylpropionitrile (8.61 g). A mixture of crude 3-hydroxy-2,2-dimethyl-propionitrile (1.0 g, 10 mmol) in DCM (40 mL) was treated with tetrafluoroboric acid (1.4 g, 10 mmol) followed by 2 M trimethylsilyldiazomethane in heptane (5.0 mL, 10 mmol) at about 0° C. over about 10 min. The mixture was treated with additional 2 M trimethylsilyldiazomethane in heptane (2 mL, 4.0 mmol) after about 20 min, followed by additions of 2 M trimethylsilyldiazomethane in heptane (1.3 mL, 2.6 mmol) and 2 M trimethylsilyldiazomethane in heptane (1.3 mL, 2.6 mmol) after about 20 min intervals sequentially. The mixture was allowed to stir at about 0° C. for about 50 min before it was poured slowly over water. The layers were separated and the aqueous layer was extracted with DCM. The combined organic layers were washed with water, dried over Na2SO4, and concentrated to yield the crude 3-methoxy-2,2-dimethylpropionitrile as a yellow oil (1.2 g). Into a Parr shaker vessel was added crude 3-methoxy-2,2-dimethylpropionitrile (1.0 g, 8.8 mmol), 33% aqueous ammonium hydroxide (75 mL), MeOH (10 mL), and 8.0 M Raney® nickel in water (1 mL, 8.0 mmol). The materials were charged with hydrogen and shaken at ambient temperature. After about 16 h, the mixture was filtered over Celite® and treated with 5 M sodium hydroxide in water (2 mL), di-tert-butyldicarbonate (2.3 g, 11 mmol), and EtOAc (75 mL). After about 5 h, the layers were separated and the aqueous layer was washed with DCM. The combined organic layers were washed with water then dried over Na2SO4 and concentrated in vacuo. The residue was purified via FCC using EtOAc/heptane (1:4). The fractions containing product, as visualized on TLC with ninhydrin stain, were concentrated in vacuo to yield (3-methoxy-2,2-dimethylpropyl)-carbamic acid tert-butyl ester, which was treated with 1.25 M HCl in methanol (1 mL) at ambient temperature. After about 2 h, the mixture was concentrated in vacuo to give methoxy-2,2-dimethylpropylamine HCl: (0.090 g): 1H NMR (DMSO-d6, 400 MHz) δ 3.85-3.75 (2H), 3.26 (3H), 3.13 (2H), 2.65-2.70 (2H), 0.91 (6H); TLC (acetone/MeOH 95:5) Rt=0.2.

reactant | 3-methoxy-2,2-dimethylpropionitrile | 8.8 mmol, 1.0 g | COCC(C#N)(C)C | C6H11NO
reactant | ammonium hydroxide | 75 mL | [OH-].[NH4+]
reactant | hydrogen | [H][H] | H2
reactant | sodium hydroxide | 5 M | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 11 mmol, 2.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 2 mL | O | H2O
catalyst | Raney® nickel | 8.0 M | [Ni] | Ni
solvent | water | 8.0 mmol, 1 mL | O | H2O
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 10 mL | CO | CH4O
product | (3-methoxy-2,2-dimethylpropyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(COC)(C)C)=O | C11H23NO3
